US08431604B2
182.1 N-1H-benzimidazole-2-ylthiourea
0.535 g (3.0 mmol) N,N′-thiocarbonyldiimidazole was dissolved in 5 ml acetonitrile, and to this yellow solution was added drop-wise 0.40 g (3.0 mmol) 2-aminobenzimidazole, suspended in 5 ml acetonitrile, at room temperature. After 30 minutes, a precipitate formed, and the mixture was stirred another 12 hours. After 0.474 g (6.0 mmol) ammonium acetate in substance (German: “in Substanz”) was added to this mixture, the mixture was heated in the microwave (at 100 Watt) 30 minutes long at 90° C. The solvent was removed under vacuum, water was added to the residue and an extraction with dichloromethane (3×30 ml) followed. The combined organic phase was washed once again with water and, after drying over MgSO4, the solvent was removed under vacuum. The product was purified by means of preparative HPLC (Merck: Chromolith RP-18E, 100-25; eluent wasser/acetonitrile/0.1 molar acetic acid). In this single pot procedure, 0.27 g of the N-1H-benzimidazole-2-ylthiourea was directly recovered without isolation of the intermediate.

reactant | N,N′-thiocarbonyldiimidazole | 3.0 mmol, 0.535 g | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
reactant | 2-aminobenzimidazole | 3.0 mmol, 0.40 g | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | ammonium acetate | 6.0 mmol, 0.474 g | C(C)(=O)[O-].[NH4+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | N-1H-benzimidazole-2-ylthiourea | N1C(=NC2=C1C=CC=C2)NC(=S)N | C8H8N4S
